US07772246B2
Preparation of 1-Benzenesulfonyl-5-[4-(2-methylsulfanyl-pyrimidin-4-yl)-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine (C-1-2)
To a solution of the 5-[4-(2-Methylsulfanyl-pyrimidin-4-yl)-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine (C-1-1) (870 mg, 2.22 mmol) in DMF (10 mL) at 25° C. was added Sodium Hydride (60% dispersion in oil, 133 mg, 3.32 mmol). The resulting suspension was stirred at ambient temperature for a few minutes until gas evolution ceased. Benzenesulfonyl chloride (0.4 mL, 3.13 mmol) was added and the mixture became cloudy. After stirring at ambient temperature for 15 minutes, LCMS showed complete conversion to desired product. The mixture was added slowly to 150 ml of saturated aqueous NaCl. The resulting precipitate was filtered, washed with water, and air dried. The solids were dissolved in dichloromethane, dried over MgSO4 and reduced to minimum volume. The residue was purified on a short column of silica gel using a gradient of 0-20% ethyl acetate in dichloromethane as eluent to give 1-Benzenesulfonyl-5-[4-(2-methylsulfanyl-pyrimidin-4-yl)-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine (C-1-2) (0.83 g, 70%) as a yellow foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.77 (s, 1H), 8.47 (d, J=5.31 Hz, 1H), 8.43 (d, J=2.02 Hz, 1H), 8.16 (d, J=2.02 Hz, 1H), 8.09-8.15 (m, 2H), 7.95 (d, J=4.04 Hz, 1H), 7.68-7.77 (m, 1H), 7.57-7.67 (m, 2H), 7.29 (d, J=5.05 Hz, 1H), 6.86 (d, J=4.04 Hz, 1H), 5.52 (dd, J=9.85, 2.27 Hz, 1H), 3.98 (br. d, J=11.87 Hz, 1H), 3.62-3.74 (m, 1H), 2.07-2.23 (br. m, 1H), 1.90-2.05 (br. m, 2H), 1.66-1.77 (br. m, 1H), 1.65 (s, 3H), 1.50-1.61 (br. m, 2H).

reactant | 5-[4-(2-Methylsulfanyl-pyrimidin-4-yl)-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 2.22 mmol, 870 mg | CSC1=NC=CC(=N1)C=1C(=NN(C1)C1OCCCC1)C=1C=C2C(=NC1)NC=C2 | C20H20N6OS
reactant | Sodium Hydride | 3.32 mmol, 133 mg | [H-].[Na+]
reactant | Benzenesulfonyl chloride | 3.13 mmol, 0.4 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-Benzenesulfonyl-5-[4-(2-methylsulfanyl-pyrimidin-4-yl)-1-(tetrahydro-pyran-2-yl)-1H-pyrazol-3-yl]-1H-pyrrolo[2,3-b]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C2=NN(C=C2C2=NC(=NC=C2)SC)C2OCCCC2 | C26H24N6O3S2
